US08685958B2
(3-(4-(5-oxa-2-azaspiro[3.4]octan-2-ylmethyl)-3-methylphenoxy)azetidin-1-yl)(5-phenyl-1,3,4-oxadiazol-2-yl)methanone
5-Oxa-2-azaspiro[3.4]octane HCl salt (0.064 g, 0.43 mmol) was dissolved in dichloromethane (2 ml). Triethylamime (0.064 ml, 0.47 mmol) was added, followed by 2-methyl-4-(1-(5-phenyl-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde (0.13 g, 0.36 mmol) and finally sodium triacetoxyhydroborate (0.152 g, 0.72 mmol). The resulting mixture was stirred at ambient temperature overnight. The reaction mixture was the diluted with dichloromethane (10 ml) and shaken with NaHCO3 (sat. 3 ml). The two phases were separated by the use of a phase separator. Evaporation of the organic phase afforded a solid residue, which again was dissolved in dichloromethane (ca. 20 ml), washed with water (20 ml), filtered through a phase separator and evaporated. The residue was purified by column chromatography (ISOLUTE SI, 20 g/70 ml), eluting with NH3 in MeOH (2M)/dichloromethane (1:99, 2:98). After evaporation of the solvent mixture, 112 mg (68%) of the desired product was obtained as a solid. 1H NMR (400 MHz, CDCl3) δ 1.91 (p, 2H), 2.14 (t, 2H), 2.33 (s, 3H), 3.15 (d, 2H), 3.39 (d, 2H), 3.59 (s, 2H), 3.82 (t, 2H), 4.35 (dd, 1H), 4.67 (dd, 1H), 4.74-4.8 (m, 1H), 5.11 (ddt, 2H), 6.57 (dd, 1H), 6.62 (d, 1H), 7.22 (d, 1H), 7.53-7.65 (m, 3H), 8.16-8.23 (m, 2H). MS (APCI+) m/z 461.3 [M+H]+, LC purity: 99%

reactant | 5-Oxa-2-azaspiro[3.4]octane HCl salt | 0.43 mmol, 0.064 g | Cl.C1NCC12OCCC2
reactant | 2-methyl-4-(1-(5-phenyl-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde | 0.36 mmol, 0.13 g | CC1=C(C=O)C=CC(=C1)OC1CN(C1)C(=O)C=1OC(=NN1)C1=CC=CC=C1 | C20H17N3O4
reactant | sodium | [Na] | Na
reactant | NaHCO3 | 3 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | ca. 20 ml | ClCCl | CH2Cl2
product | (3-(4-(5-oxa-2-azaspiro[3.4]octan-2-ylmethyl)-3-methylphenoxy)azetidin-1-yl)(5-phenyl-1,3,4-oxadiazol-2-yl)methanone | 112 mg, 68% | C1N(CC12OCCC2)CC2=C(C=C(OC1CN(C1)C(=O)C=1OC(=NN1)C1=CC=CC=C1)C=C2)C | C26H28N4O4
